US06656937B2
3-phenylaminomethyl piperidine-2,6-dione
30 ml absolute triethylamine and 2.75 ml freshly distilled aniline were added to a solution of 1.25 g 3-methylene piperidine-2,6-dione (M. J. Wanner and G. -J. Koomen, Tetrahedron Lett. 1992, 33, 1513-1516) in 100 ml acetonitrile and the mixture was stirred for 16 h at 80° C.

reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 3-methylene piperidine-2,6-dione | 1.25 g | C=C1C(NC(CC1)=O)=O | C6H7NO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-phenylaminomethyl piperidine-2,6-dione | C1(=CC=CC=C1)NCC1C(NC(CC1)=O)=O | C12H14N2O2
